US09403832B2
5.6.16. Synthesis of Isopropyl 4-(3-(2-fluoropyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)piperazine-1-carboxylate
Isopropyl 4-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)piperazine-1-carboxylate (4 g, 10.86 mmol), 2-fluoropyridine-3-boronic acid hydrate (3.44 g, 21.7 mmol), potassium carbonate (4.5 g, 32.6 mmol), Pd(OAc)2 (24 mg, 0.1086 mmol), and x-Phos (146 mg, 0.217 mmol) were taken up in dioxane and water under nitrogen and stirred at 80° C. for 2 hours. Reaction then cooled to room temperature, filtered through celited plug with ethyl acetate. Reduced in vacuo and run through an isco silica column with hexane:ethyl acetate 75-100%. Product plus desbromo co elute, reduced in vacuo. Product recrystallized 3 times from IPAC, washed with heptanes dried to get 889 mg product. 1H NMR (400 MHz, DMSO-d6) δ 8.95 (t, J=2.15 Hz, 1H), 8.78 (d, J=7.83 Hz, 1H), 8.29 (d, J=4.29 Hz, 1H), 8.00 (d, J=4.80 Hz, 1H), 7.43 (dt, J=2.40, 4.99 Hz, 1H), 6.85 (d, J=7.83 Hz, 1H), 4.78-4.87 (m, 1H), 3.73-3.83 (m, 4H), 3.48-3.58 (m, 4H), 3.31 (s, 1H), 1.22 (d, J=6.06 Hz, 6H) LRMS (ESI) m/z 385 [(M+H)]+, calc'd for C19H21FN6O2: 384.42.

reactant | Isopropyl 4-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)piperazine-1-carboxylate | 10.86 mmol, 4 g | BrC=1C=NN2C1N=C(C=C2)N2CCN(CC2)C(=O)OC(C)C | C14H18BrN5O2
reactant | 2-fluoropyridine-3-boronic acid hydrate | 21.7 mmol, 3.44 g | O.FC1=NC=CC=C1B(O)O
reactant | potassium carbonate | 32.6 mmol, 4.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | x-Phos | 0.217 mmol, 146 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.1086 mmol, 24 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | O | H2O
product | Isopropyl 4-(3-(2-fluoropyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)piperazine-1-carboxylate | 889 mg | FC1=NC=CC=C1C=1C=NN2C1N=C(C=C2)N2CCN(CC2)C(=O)OC(C)C | C19H21FN6O2
